US07897601B2
A solution of [3-(4-chloro-phenyl)-allyl]-(3,4-difluoro-benzyl)-carbamic acid tert-butyl ester (2.04 g) in 20 mL of 4N HCl in dioxane was stirred at room temperature for 1 hr. The solution was poured into 150 mL of aq. K2CO3, and extracted with 3×50 mL of ethyl acetate. The combined organic layer was washed with 50 mL brine, dried over Na2SO4, filtered and concentrated to provide 1.49 g of [3-(4-chloro-phenyl)-allyl]-(3,4-difluoro-benzyl)-amine.

reactant | [3-(4-chloro-phenyl)-allyl]-(3,4-difluoro-benzyl)-carbamic acid tert-butyl ester | 2.04 g | C(C)(C)(C)OC(N(CC1=CC(=C(C=C1)F)F)CC=CC1=CC=C(C=C1)Cl)=O | C21H22ClF2NO2
reactant | K2CO3 | 150 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | HCl | 4N, 20 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | [3-(4-chloro-phenyl)-allyl]-(3,4-difluoro-benzyl)-amine | 1.49 g | ClC1=CC=C(C=C1)C=CCNCC1=CC(=C(C=C1)F)F | C16H14ClF2N
